US09145392B2
4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxylic acid amide (“383”)
The title compound was prepared in an analogous manner as 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxamide using 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile instead of 4-amino-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidine-5-carbonitrile. LC-MS: (M+1=493, obsd.=493).

reactant | 4-Amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxamide | NC1=NC=NC(=C1C(=O)N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)C | C21H21F4N7O
reactant | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCNCC1CC1 | C26H31FN8
product | 4-Amino-6-{4-[1-[2-(cyclopropylmethyl-amino)-ethyl]-4-(4-fluoro-3-methyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carboxylic acid amide | NC1=NC=NC(=C1C(=O)N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C)CCNCC1CC1 | C26H33FN8O
